US08912208B2
E. Oxo-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidin-1-yl)-acetic acid ethyl ester
[5-(4-Piperidin-4-yl-phenyl)-pyridin-2-yl]-(6-trifluoromethyl-pyridin-3-yl)-amine hydrochloride (200 mg, 0.46 mmol) was slurried in DCM (2 mL) and to it was added N,N-diisopropylethylamine (1.320 mL, 7.6 mmol). Chloro-oxo-acetic acid ethyl ester (0.076 mL, 0.69 mmol) was added dropwise, and the reaction was stirred for 18 hours. The reaction mixture was partitioned between EtOAc and water, washed with brine, dried with magnesium sulfate, filtered, and concentrated via rotary evaporation to obtain 229 mg of the title compound as a crude oil, which was taken to the next step without purification: MS (M+H)+ 499.2.

reactant | [5-(4-Piperidin-4-yl-phenyl)-pyridin-2-yl]-(6-trifluoromethyl-pyridin-3-yl)-amine hydrochloride | 0.46 mmol, 200 mg | Cl.N1CCC(CC1)C1=CC=C(C=C1)C=1C=CC(=NC1)NC=1C=NC(=CC1)C(F)(F)F
reactant | N,N-diisopropylethylamine | 7.6 mmol, 1.320 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Chloro-oxo-acetic acid ethyl ester | 0.69 mmol, 0.076 mL | C(C)OC(C(=O)Cl)=O | C4H5ClO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | Oxo-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidin-1-yl)-acetic acid ethyl ester | 229 mg | C(C)OC(C(N1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F)=O)=O | C26H25F3N4O3
